US07915281B2
Under a nitrogen atmosphere, triethylamine (14.9 mL, 107 mmoL) was added to a solution of 2,4-dichloro-3-nitroquinoline (17.29 g, 71.15 mol) in anhydrous 1-methyl-2-pyrrolidinone (NMP) (100 mL). The mixture was stirred until it was homogeneous and then was cooled to 6° C. 2-[3-(4-Fluorophenyl)isoxazol-5-yl]ethylamine (14.9 mL, 107 mmol) was added dropwise over a period of 30 minutes; the temperature did not rise above 10° C. during the addition. After the reaction was stirred for 1.75 hours, deionized water (100 mL) was added. A precipitate formed, and the mixture was stirred for 30 minutes. The precipitate was isolated by filtration, and washed with deionized water until the filtrate was pH 8. The filter cake was then washed sequentially with toluene (100 mL) and a small amount of diethyl ether and dried for 18 hours to provide 27.84 g of 2-chloro-N-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-3-nitroquinolin-4-amine as a bright yellow solid.

reactant | triethylamine | 14.9 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-3-nitroquinoline | 71.15 mol, 17.29 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | 2-[3-(4-Fluorophenyl)isoxazol-5-yl]ethylamine | 107 mmol, 14.9 mL | FC1=CC=C(C=C1)C1=NOC(=C1)CCN | C11H11FN2O
reactant | water | 100 mL | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 2-chloro-N-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-3-nitroquinolin-4-amine | 27.84 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C20H14ClFN4O3
